US04052387
Methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide (from azetidinone sulfinic acid)
A solution of 0.10 g. of methyl 3-methyl-2-(2-sulfino-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate and 0.04 g. of phosphorous pentoxide in 20 ml. of 1,2-dichloroethane was stirred at room temperature for 1 hour. A tlc of the reaction mixture indicated only trace amounts of the methylenecepham sulfoxide. The mixture was then refluxed for 30 minutes, cooled to room temperature, and combined with 25 ml. of ethyl acetate and 50 ml. of brine. The organic layer was separated, washed with aqueous sodium bicarbonate and brine and dried (MgSO4). Evaporation in vacuo to dryness provided 0.04 g. of the title product as a white froth.

reactant | methyl 3-methyl-2-(2-sulfino-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OC)N1C(C(C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)S(=O)O)=C | C17H16N2O7S
reactant | phosphorous pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | Methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide | C1(C=2C(C(N1C1[C@@H]3N(C(C(CS3=O)=C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H14N2O6S
